US08193182B2
Synthesis of 8-methyl-3-((methyl(9H-purin-6-yl)amino)methyl)-2-o-tolylisoquinolin-1(2H)-one
8-Methyl-3-((methyl(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)amino)methyl)-2-o-tolylisoquinolin-1(2H)-one (4003) (180 mg 0.36 mmol) was dissolved in MeOH (HCl) (50 mL) and the mixture was stirred at RT for 2 h. Aqueous NaHCO3 solution was added to the reaction mixture and the pH value was adjusted to 9. The mixture was filtered and the filtrate was concentrated in vacuo to afford the desired product, 8-methyl-3-((methyl(9H-purin-6-yl)amino)methyl)-2-o-tolylisoquinolin-1(2H)-one (4004) (80 mg, 54% yield) as a yellow solid.

reactant | 8-Methyl-3-((methyl(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)amino)methyl)-2-o-tolylisoquinolin-1(2H)-one | 0.36 mmol, 180 mg | CC=1C=CC=C2C=C(N(C(C12)=O)C1=C(C=CC=C1)C)CN(C1=C2N=CN(C2=NC=N1)C1OCCCC1)C | C29H30N6O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | 8-methyl-3-((methyl(9H-purin-6-yl)amino)methyl)-2-o-tolylisoquinolin-1(2H)-one | 80 mg, 54% yield | CC=1C=CC=C2C=C(N(C(C12)=O)C1=C(C=CC=C1)C)CN(C1=C2N=CNC2=NC=N1)C | C24H22N6O
